US04568666
To a solution of O-benzyl-L-tyrosine N-methylamide HCl (1.13 g) in methanol (50 ml) was added 10% Pd/C and the mixture was stirred in an atmosphere of hydrogen at room temperature and atmospheric pressure for 4 h. The catalyst was then filtered and the solvent was removed in vacuo to yield L-tyrosine N-methylamide HCl as a foam (0.85 g).

reactant | O-benzyl-L-tyrosine N-methylamide HCl | 1.13 g | Cl.CNC([C@@H](N)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | L-tyrosine N-methylamide HCl | 0.85 g | Cl.CNC([C@@H](N)CC1=CC=C(C=C1)O)=O | InChI=1S/C10H14N2O2.ClH/c1-12-10(14)9(11)6-7-2-4-8(13)5-3-7;/h2-5,9,13H,6,11H2,1H3,(H,12,14);1H/t9-;/m0./s1
